US04022775
1-(3-acetyltetrahydro-2H-1,3-thiazin-2-ylidene)-1-nitro-2-propanone (1)
A solution of 20.2 g of 1-nitro-1-(tetrahydro-2H-1,3-thiazine-2-ylidene)-2-propanone (1A; Example 2, Ser. No. 547,417, now U.S. Pat. No. 3,962,225) in 200 ml of tetrahydrofuran (THF) was added dropwise to a stirred suspension of sodium hydride (4.65 g of 57% dispersion in mineral oil in 100 ml of THF), the mixture being maintained at about 0°. After the addition was complete, stirring at 0° was continued until hydrogen evolution ceased. The stirred mixture then was allowed to warm to room temperature and stirred overnight. The mixture then was cooled to 0° and a solution of 8.2 g of acetyl chloride in 50 ml of THF was added dropwise. The mixture was stirred at 0° C. for 30 minutes and then allowed to warm to room temperature gradually and stirred at room temperature for 90 hours. The reaction mixture then was poured into a mixture of chloroform and saturated sodium bicarbonate solution. The organic phase was separated, washed with water, saturated sodium chloride solution, dried (sodium sulfate) and stripped of solvent under reduced pressure to leave a dark viscous oil. The oil was dissolved in ethyl acetate, the solution was chilled and an equivalent amount of ether was added. The liquid phase was separated and stripped of solvent under reduced pressure. The resulting oil was dissolved in methylene chloride and extracted with 10% sodium hydroxide solution. The organic phase was separated, washed with water and saturated sodium chloride solution, dried (Na2SO4) and stripped of solvent under reduced pressure. The resulting liquid was triturated with ether and chilled to give 1, as a yellow solid, m.p.: 73.5°-76°.

reactant | 1-nitro-1-(tetrahydro-2H-1,3-thiazine-2-ylidene)-2-propanone | 20.2 g | [N+](=O)([O-])C(C(C)=O)=C1SCCCN1 | C7H10N2O3S
reactant | sodium hydride | 100 ml, 4.65 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 8.2 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-acetyltetrahydro-2H-1,3-thiazin-2-ylidene)-1-nitro-2-propanone | C(C)(=O)N1C(SCCC1)=C(C(C)=O)[N+](=O)[O-] | C9H12N2O4S
